US07842688B2
e) 2-Hydroxy-3-(3-methoxypropoxy)benzaldehyde
A solution of 5.00 g of 2,3-dihydroxybenzaldehyde in 10 ml of dimethyl sulphoxide is added dropwise at room temperature to the suspension of 3.77 g of sodium hydride dispersion (55%) in 28 ml of dimethyl sulphoxide. The reaction mixture is stirred over 1 hour and then admixed with a solution of 3.81 g of 1-chloro-3-methoxypropane in 2 ml of dimethyl sulphoxide. After 2 hours, 0.50 g of sodium iodide is added. After 16 hours, the reaction mixture is poured onto water, acidified to pH 2 with 4N HCl and extracted with dichloromethane (7×). The combined organic phases are washed with 0.5N HCl (2×), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.23 (95:5 dichloromethane-methanol); Rt=3.60.

reactant | 2,3-dihydroxybenzaldehyde | 5.00 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | sodium hydride | 3.77 g | [H-].[Na+]
reactant | 1-chloro-3-methoxypropane | 3.81 g | ClCCCOC | C4H9ClO
reactant | sodium iodide | 0.50 g | [I-].[Na+]
reactant | HCl | 4N | Cl | ClH
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 28 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
product | 2-Hydroxy-3-(3-methoxypropoxy)benzaldehyde | OC1=C(C=O)C=CC=C1OCCCOC | C11H14O4
